US06541505B1
N-[2-(3-Cyano-1H-indol-5-yl)ethyl]-4-[2-(4-piperidin-1-ylbutylamino)pyrimidin-4-yl]benzamide.
Using 4-piperidin-1-ylbutylamine (reference example 93 g) and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. MS (ion spray) m/z 522 (M+H)+.

reactant | 4-piperidin-1-ylbutylamine | 93 g | N1(CCCCC1)CCCCN | C9H20N2
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-Cyano-1H-indol-5-yl)ethyl]-4-[2-(4-piperidin-1-ylbutylamino)pyrimidin-4-yl]benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)NCCCCN1CCCCC1)=O | C31H35N7O
